US09371320B2
A-2) tert-butyl 2-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)imidazolidine-1-carboxylate
To a solution of 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)imidazolidin-2-one (0.98 g) and dimethylaminopyridine (0.062 g) in acetonitrile (15 mL) was added di-tert-butyl dicarbonate (0.854 g) at 0° C., and the mixture was stirred overnight at room temperature. The reaction mixture was extracted with water and ethyl acetate, and the organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.95 g).

reactant | 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)imidazolidin-2-one | 0.98 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1C(NCC1)=O)C | C15H21BN2O3
reactant | dimethylaminopyridine | 0.062 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 0.854 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | tert-butyl 2-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)imidazolidine-1-carboxylate | 0.95 g | O=C1N(CCN1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C20H29BN2O5
